US04282242
2-(4-Chlorophenyl)-3-carbethoxymethylaminoacrylaldehyde (73.6 g.) was refluxed in 300 ml. of ethylene glycol for 10 minutes. The reaction mixture was cooled, diluted with 1 liter of water, product extracted into chloroform, treated with activated carbon and evaporated to solids. Trituration with ether gave crude product (8 g.). An additional quantity of crude product (7.5 g.) crystallized from the aqueous phase which had been standing. Recrystallization of the combined crude solids from chloroform gave 2-hydroxyethyl 4-(4-chlorophenyl)pyrrole-2-carboxylate (5 g., m.p. 128°-130° C.). The ether and chloroform mother liquors were combined and evaporated to yield an additional 40 g. of crude product.

reactant | 2-(4-Chlorophenyl)-3-carbethoxymethylaminoacrylaldehyde | 73.6 g | ClC1=CC=C(C=C1)C(C=O)=CNCC(=O)OCC | C13H14ClNO3
reactant | ethylene glycol | C(CO)O | C2H6O2
solvent | water | 1 liter | O | H2O
product | 2-hydroxyethyl 4-(4-chlorophenyl)pyrrole-2-carboxylate | 5 g | ClC1=CC=C(C=C1)C=1C=C(NC1)C(=O)OCCO | C13H12ClNO3
